US07288547B2
A solution of 2.27 g (10.0 mmol) of 5-bromo-2,4-dichloro-pyrimidine in 30 ml of acetonitrile is mixed while being stirred at −20° C. with 1.39 ml (10 mmol) of triethylamine. Then, a solution of 1.06 g (10 mmol) of 4-mercapto-1-butanol in 1 ml of acetonitrile is added in drops. The reaction mixture is heated overnight to room temperature while being stirred. The batch is filtered, and the filtrate is evaporated to the dry state. The residue that is obtained is purified by chromatography (Flashmaster II, hexane/ethyl acetate 1:1). 2.89 g (9.7 mmol, 97% of theory) of the product 4-(5-bromo-2-chloro-pyrimidin-4-ylsulfanyl)-butan-1-ol is obtained.

reactant | 5-bromo-2,4-dichloro-pyrimidine | 10.0 mmol, 2.27 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | triethylamine | 10 mmol, 1.39 ml | C(C)N(CC)CC | C6H15N
reactant | 4-mercapto-1-butanol | 10 mmol, 1.06 g | SCCCCO | C4H10OS
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 4-(5-bromo-2-chloro-pyrimidin-4-ylsulfanyl)-butan-1-ol | BrC=1C(=NC(=NC1)Cl)SCCCCO | C8H10BrClN2OS
